US06518423B1
4-[1-Benzyl-4-(3-methoxy-4-[2-methylthio-2-(methylsulfinyl)-vinyl]phenyl]piperidin-4-ol
3.43 g of 4-(1-benzyl-4-hydroxypiperidin-4-yl)-2-methoxybenzaldehyde was dissolved in 30 ml of tetrahydrofuran. To the resulting solution were added 2.42 ml of methyl methylsulfinylmethyl sulfoxide and 2 ml of a 40% solution of benzyltrimethylammonium hydroxide in methanol and the resulting mixture was heated under reflux for 3 hours. After concentrating the reaction mixture, water was added thereto followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 4.58 g of the title compound as a pale yellow oily substance.

reactant | 4-(1-benzyl-4-hydroxypiperidin-4-yl)-2-methoxybenzaldehyde | 3.43 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=C(C=O)C=C1)OC | C20H23NO3
reactant | methyl methylsulfinylmethyl sulfoxide | 2.42 ml | CS(=O)CS(=O)C | C3H8O2S2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-Benzyl-4-(3-methoxy-4-[2-methylthio-2-(methylsulfinyl)-vinyl]phenyl]piperidin-4-ol | 4.58 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=C(C=C1)C=C(S(=O)C)SC)OC | C23H29NO3S2
